US07232920B2
Preparation of tert-butyl (3R,5R)-6-cyano-3,5-dihydroxyhexanoate
A solution of tert-butyl (5R)-6-cyano-5-hydroxy-3-oxohexanoate (10 g, 0.044 mol) in THF (60 mL) was stirred under nitrogen and methanol (20 mL) was added. The reaction mixture was stirred for 15 min. and cooled to −50° C. to −55° C. Anhydrous CeCl3 (10.8 g, 0.044 mol) was added and stirred for 30 min., maintaining the temperature between −50 and −55° C. Sodium borohydride (2.5 g, 0.066 mol) was added in 6 portions maintaining the temperature between −70 and −90° C. The resulting mixture was stirred for 1 h at the same temperature. After warming the reaction mixture to room temperature (RT), it was concentrated to a residue under vacuum at about 45° C. Methanol (60 mL) was added and the resulting mixture was concentrated. The resulting residue was cooled to RT, water (50 mL) was added and the resulting aqueous mixture was extracted with ethyl acetate (100 mL×2). The combined organic layer was washed with brine solution (50 mL), and concentrated to obtain the title compound. Yield: 9 g.

reactant | tert-butyl (5R)-6-cyano-5-hydroxy-3-oxohexanoate | 0.044 mol, 10 g | C(#N)C[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
reactant | methanol | 20 mL | CO | CH4O
reactant | Sodium borohydride | 0.066 mol, 2.5 g | [BH4-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R,5R)-6-cyano-3,5-dihydroxyhexanoate | C(#N)C[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O | C11H19NO4
